### ISSUE TITLE
Lint unnecessary `@` notation

### ISSUE THREAD

**Issue by paulcadman** [mathlib-initiative/TaskList#62]
We could write a linter to detect when `@foo` could be replaced by `foo` without changing elaboration.

e.g detect

```lean
example (a b : ℕ) : a = b → b = a := by
  exact @Eq.symm ℕ a b
```

and suggest:

```lean
example (a b : ℕ) : a = b → b = a := by
  exact Eq.symm
```

Originally suggested by @kim-em.
